US07214673B2
(S)-9-Fluoro-5-{3-[2-(4-methoxy-phenyl)-ethyl]-piperazin-1-yl}-11H-12-thia-6,11-diaza-dibenzo[a,f]azulene
Add 9-fluoro-11H-12-thia-6,11-diaza-dibenzo[a,f]azulen-5-ylamine hydrochloride (0.66 g, 2.1 mmol) to a solution of (S)-2-[2-(4-methoxy-phenyl)-ethyl]-piperazine (0.91 g, 4.1 mmol) in dimethyl sulfoxide: toluene (1:8, 9 mL). Add diisopropylethylamine (0.36 mL, 2.1 mmol), heat to 110° C., and stir. After 51 hours, cool to ambient temperature, and dilute with ethyl acetate and 0.1 N NaOH. Separate the aqueous layer and extract it with ethyl acetate (2×). Wash all organics with a saturated solution of sodium chloride, and then dry (sodium sulfate), filter, and concentrate them under reduced pressure to an oil (1.27 g). Purify the oil by flash chromatography, eluting with a gradient of a 3% solution of 2M ammonia in methanol, in dichloromethane (0–100% in dichloromethane). Reconstitute the material in ethyl acetate and wash it with a saturated solution of sodium chloride (2×) to remove residual dimethylsulfoxide. Back extract the combined aqueous layers with ethyl acetate. Dry (sodium sulfate) the organic phases, filter, and concentrate them under reduced pressure to give the title compound (0.389 g): mass spectrum (APCI+, m/e): 487 (M+1).

reactant | 9-fluoro-11H-12-thia-6,11-diaza-dibenzo[a,f]azulen-5-ylamine hydrochloride | 2.1 mmol, 0.66 g | Cl.FC=1C=CC2=C(NC=3SC4=C(C3C(=N2)N)C=CC=C4)C1
reactant | (S)-2-[2-(4-methoxy-phenyl)-ethyl]-piperazine | 4.1 mmol, 0.91 g | COC1=CC=C(C=C1)CC[C@@H]1NCCNC1 | C13H20N2O
reactant | diisopropylethylamine | 2.1 mmol, 0.36 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethyl sulfoxide toluene | 9 mL | CS(=O)C.C1(=CC=CC=C1)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NaOH | 0.1 N | [OH-].[Na+]
product | (S)-9-Fluoro-5-{3-[2-(4-methoxy-phenyl)-ethyl]-piperazin-1-yl}-11H-12-thia-6,11-diaza-dibenzo[a,f]azulene | 0.389 g | FC=1C=CC2=C(NC=3SC4=C(C3C(=N2)N2C[C@@H](NCC2)CCC2=CC=C(C=C2)OC)C=CC=C4)C1 | C28H27FN4OS
